US04789750
Reaction of 11.8 g (33.3 mmol) of (S)-(6-bezyloxy-2,5,7,8-tetramethylchroman-2-yl)acetic acid with oxalyl chloride according to Cohen et al Helv. Chim. Acta, 1978 61, 837 afforded 13.0 g (105%) of (S)-(6-benzyloxy-2,5,7,8-tetramethylchroman-2-yl)acetyl chloride as a yellow oil. This acid chloride was reacted according to Org. Synth., 1984, 63, 198 with 4.94 g (34.3 mmol) of Meldrum's acid and 6.58 g (6.73 mL, 83.2 mmol) of dry pyridine as described above for the racemic series to afford 16.5 g of crude adduct i.e.(S)-5-[2-[3,4-dihydro-2,5,7,8-tetramethyl-6-phenylmethoxy-2H-1-benzopyran-2-yl]-1-hydroxyethylidene]-2,2-dimethyl-1,3-dioxane-4,6-dione as a brownish foam. Crystallization attempts from several solvents or solvent mixtures failed.

reactant | (S)-(6-bezyloxy-2,5,7,8-tetramethylchroman-2-yl)acetic acid | 33.3 mmol, 11.8 g | C(C1=CC=CC=C1)OC=1C(=C2CC[C@@](OC2=C(C1C)C)(C)CC(=O)O)C | C22H26O4
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
product | (S)-(6-benzyloxy-2,5,7,8-tetramethylchroman-2-yl)acetyl chloride | 13.0 g, 105% | C(C1=CC=CC=C1)OC=1C(=C2CC[C@@](OC2=C(C1C)C)(C)CC(=O)Cl)C | C22H25ClO3
